US09290451B2
5-Cyclopropyl-6-cyclopropylmethoxy-pyridine-2-carboxylic acid (1-methyl-1-[1,2,4]oxadiazol-3-yl-ethyl)-amide
The title compound was synthesized in analogy to Example 1, using 5-cyclopropyl-6-cyclopropylmethoxy-pyridine-2-carboxylic acid (Example 42 a) and 1-methyl-1-[1,2,4]oxadiazol-3-yl-ethylamine (CAN 1153757-41-5) as starting materials, MS (LC/MS): 343.1 (M+H).

reactant | 5-cyclopropyl-6-cyclopropylmethoxy-pyridine-2-carboxylic acid | C1(CC1)C=1C=CC(=NC1OCC1CC1)C(=O)O | C13H15NO3
reactant | 1-methyl-1-[1,2,4]oxadiazol-3-yl-ethylamine | CC(C)(C1=NOC=N1)N | C5H9N3O
product | 5-Cyclopropyl-6-cyclopropylmethoxy-pyridine-2-carboxylic acid (1-methyl-1-[1,2,4]oxadiazol-3-yl-ethyl)-amide | CC(C)(C1=NOC=N1)NC(=O)C1=NC(=C(C=C1)C1CC1)OCC1CC1 | C18H22N4O3
